US05196434
7-(BROMOACETYL)BENZOXAZINONE
0.01 mol of 7-acetylbenzoxazinone, described in Application EP 223,674, is dissolved in 100 cm3 of methylene chloride. 0.011 mol of bromine is added dropwise and with stirring via a dropping funnel, and stirring is maintained for 13 hours. The mixture is filtered and evaporated to dryness and the residue is recrystallized.

reactant | 7-acetylbenzoxazinone | 0.01 mol | C(C)(=O)C1=CC2=C(CC(NO2)=O)C=C1 | C10H9NO3
reactant | bromine | 0.011 mol | BrBr | Br2
solvent | methylene chloride | 100 cm3 | C(Cl)Cl | CH2Cl2
product | 7-(BROMOACETYL)BENZOXAZINONE | BrCC(=O)C1=CC2=C(CC(NO2)=O)C=C1 | C10H8BrNO3
